US04305868
2-stearamidoethyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate
A mixture of 30.6 g (0.11 mole) 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionic acid, 32.6 g (0.1 mole) N-(2-hydroxyethyl)stearamide, 0.8 g Tyzor TBT, and 100 ml xylene was refluxed for six hours. The water (1.8 ml) was trapped in a Stark & Dean trap. The solution was filtered through Microcel (trademark, synthetic calcium silicate) and the solvent was removed by vacuum stripping. The title compound (51 g) was recrystallized from acrylonitrile. It melted at 52°-55° C.

reactant | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionic acid | 0.11 mole, 30.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)O | C17H26O3
reactant | N-(2-hydroxyethyl)stearamide | 0.1 mole, 32.6 g | OCCNC(CCCCCCCCCCCCCCCCC)=O | C20H41NO2
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Tyzor TBT | 0.8 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
solvent | water | 1.8 ml | O | H2O
product | 2-stearamidoethyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCNC(CCCCCCCCCCCCCCCCC)=O | C37H65NO4
